US09119868B2
Step 1: 6-(N-(3-Chloro-4-vinylphenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A mixture of 6-(N-(4-bromo-3-chlorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (1.00 g, 1.69 mmol), PdCl2(dppf)-CH2Cl2 adduct (138 mg, 0.169 mmol), sodium carbonate (537 mg, 5.07 mmol) and vinylboronic acid pinacol ester (0.573 mL, 3.38 mmol) in a 9:1 mixture of 1,4-dioxane and water (20 mL) was degassed and heated at 80° for 16 h. The mixture was cooled to rt, then poured into water and extracted with EtOAc (3×). The combined organic layers were washed with brine (1×), dried over sodium sulfate and concentrated under reduced pressure. The light brown oily residue was purified by flash chromatography (silica gel, gradient of 0 to 50% EtOAc in hexanes) to afford the title compound (821 mg, 90%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.46 (q, 1H), 8.08-8.14 (m, 1H), 7.92-8.02 (m, 2H), 7.70-7.76 (m, 1H), 7.34-7.47 (m, 4H), 7.17-7.24 (m, 1H), 6.96 (dd, 1H), 5.87 (d, 1H), 5.44 (d, 1H), 3.39-3.47 (m, 3H), 2.83 (d, 3H), 2.04-2.16 (m, 1H), 0.73-1.03 (m, 3H), 0.36-0.55 (m, 1H). LCMS (m/z, ES+)=539 (M+H+).

reactant | 6-(N-(4-bromo-3-chlorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 1.69 mmol, 1.00 g | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)Cl | C26H21BrClFN2O4S
reactant | sodium carbonate | 5.07 mmol, 537 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | vinylboronic acid pinacol ester | 3.38 mmol, 0.573 mL | C(=C)B1OC(C)(C)C(C)(C)O1 | C8H15BO2
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.169 mmol, 138 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | water | 20 mL | O | H2O
product | 6-(N-(3-Chloro-4-vinylphenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 821 mg, 90% | ClC=1C=C(C=CC1C=C)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C28H24ClFN2O4S
